US04283409
In a flame-dried reaction flask containing 10 ml. of freshly distilled isoamyl alcohol, there were placed 300 mg. (0.00129 mole) of 3',4'-dihydro-spiro-[imidazolidine-4,1'(2'H)naphthalene]-2-one-5-thione (prepared as described above) while the entire system was under a dry nitrogen atmosphere. The resulting solution was then treated with 0.5 g. of sodium, which was added in small portions, and the mixture so obtained was heated at 90°-100° C. for a period of 30 minutes. After cooling to room temperature (~25° C.), the excess sodium was destroyed with 10 ml. of methanol and the spent reaction mixture was diluted with water and subsequently extracted with three separate fresh portions of benzene. The combined benzene layers were then washed with water, dried over anhydrous magnesium sulfate and filtered. The resulting filtrate was thereafter evaporated to near dryness while under reduced pressure and the residue so obtained was slurried with diethyl ether and 1 N hydrochloric acid, followed by basification of the aqueous layer with 4 N aqueous potassium hydroxide. Extraction of the latter basified solution with methylene chloride then gave a clear organic extract, which was subsequently washed with water and dried over anhydrous magnesium sulfate. After removal of the drying agent by means of filtration and the solvent by means of evaporation under reduced pressure, there was finally obtained 78 mg. (30%) of crude 3',4'-dihydro-spiro-[imidazolidine-4,1'(2'H)naphthalene]-5-one as the desired final product. Recrystallization of the latter material from ethanol then gave analytically pure 3',4'-dihydro-spiro-[imidazolidine-4,1'(2'H)naphthalene]-5-one, m.p. 181°-183° C.

reactant | 3',4'-dihydro-spiro-[imidazolidine-4,1'(2'H)naphthalene]-2-one-5-thione | 0.00129 mole | C12(CCCC3=CC=CC=C13)NC(NC2=S)=O | C12H12N2OS
reactant | sodium | [Na] | Na
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | potassium hydroxide | 4 N | [OH-].[K+]
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | 3',4'-dihydro-spiro-[imidazolidine-4,1'(2'H)naphthalene]-5-one | C12(CCCC3=CC=CC=C13)NCNC2=O | C12H14N2O
